US07745641B2
In a similar manner to Step 1 of Example 152, 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (176 mg, 0.336 mmol) was dissolved in dimethoxyethane (8.8 mL), and the solution was treated with trimethylboroxine (0.140 mL, 1.01 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (32.9 mg, 0.0403 mmol), potassium carbonate (231 mg, 1.68 mmol) and water (0.121 mL), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile=4/1) to obtain 4-methyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (112 mg, yield 86%).

reactant | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.336 mmol, 176 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O)(F)F | C23H19F3N2O7S
reactant | trimethylboroxine | 1.01 mmol, 0.140 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 1.68 mmol, 231 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.121 mL | O | H2O
solvent | dimethoxyethane | 8.8 mL | C(OC)COC | C4H10O2
product | 4-methyl-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 112 mg, yield 86% | CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C23H22N2O4
